US08008283B2
In a similar manner to Example 13, piretanide can be reacted with chloromethyl propionate, triethylamine and sodium iodide in DMF to yield ethylcarbonyloxymethyl 3-aminosulfonyl-4-phenoxy-5-(1-pyrrolidinyl)benzoate.

reactant | piretanide | C=1C=CC(=CC1)OC=2C(=CC(=CC2S(=O)(=O)N)C(=O)O)N3CCCC3 | C17H18N2O5S
reactant | chloromethyl propionate | C(CC)(=O)OCCl | C4H7ClO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | [I-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | ethylcarbonyloxymethyl 3-aminosulfonyl-4-phenoxy-5-(1-pyrrolidinyl)benzoate | NS(=O)(=O)C=1C=C(C(=O)OCOC(=O)CC)C=C(C1OC1=CC=CC=C1)N1CCCC1 | C21H24N2O7S
